*A Simple MOSFET Gain Stage. NOISE Analysis.

M1 3 2 0 0 nmos w=4u l=1u m=6
Rsource 1 2 100k
Rload 3 vdd 25k

Vdd1 vdd 0 5
Vin 1 0 1.44 ac .1 sin(0 1 1e+5 0 0)

.noise v(3) Vin dec 10 100 1000Meg

* Verify that case does not matter in the device names or noise type names
* for the DNO and DNI operators.
.print noise {sqrt(abs(onoise))} {sqrt(abs(inoise))}
+ {sqrt(abs(DNO(rsource)))} 
+ {sqrt(abs(DNO(rload)))}
+ {sqrt(abs(DNI(rsource)))}
+ {sqrt(abs(DNI(rload)))}

.model nmos nmos level=2

.end

